US04283420
Sodium 1-methyl-1-cyclohexyl-carboxylate
0.1 mole of 1-methyl-1-cyclohexyl-carboxylic acid prepared by a method similar to that used in example 7, dissolved in methanol was added to a solution of sodium methylate in dry methanol, prepared using 0.095 mole of sodium and 40 cm3 of methanol as the starting materials. The mixture was heated at 50° C. for 10 minutes and the methanol was then evaporated off in vacuo. The colourless crystals of sodium 1-methyl-1-cyclohexyl-carboxylate were washed with ether, filtered off and dried.

reactant | 1-methyl-1-cyclohexyl-carboxylic acid | 0.1 mole | CC1(CCCCC1)C(=O)O | C8H14O2
reactant | sodium methylate | C[O-].[Na+]
reactant | sodium | 0.095 mole | [Na] | Na
solvent | methanol | CO | CH4O
solvent | methanol | 40 cm3 | CO | CH4O
product | Sodium 1-methyl-1-cyclohexyl-carboxylate | CC1(CCCCC1)C(=O)[O-].[Na+] | InChI=1S/C8H14O2.Na/c1-8(7(9)10)5-3-2-4-6-8;/h2-6H2,1H3,(H,9,10);/q;+1/p-1
